US08975282B2
Step 2) N-(5-((2-(cyclopropanecarboxamido)pyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a suspension of N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (500 mg, 1.2 mmol) in DCM (5 mL) and triethylamine (1 mL) was added cyclopropanecarbonyl chloride (377 mg, 3.6 mmol) at 0° C. slowly. The mixture was warmed up to rt and stirred for 4.5 hours, then diluted with DCM (10 mL) and water (10 mL). The organic phase was separated and concentrated in vacuo. The residue was dissolved in MeOH (30 mL), and saturated solution of Na2CO3 (30 mL). The resulted mixture was stirred at rt for 2 hours, then filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (v/v)=50/1) to give the title compound as an off-white solid (350 mg, 60%).

reactant | N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 1.2 mmol, 500 mg | NC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C22H20N6O3
reactant | cyclopropanecarbonyl chloride | 3.6 mmol, 377 mg | C1(CC1)C(=O)Cl | C4H5ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | N-(5-((2-(cyclopropanecarboxamido)pyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 350 mg, 60% | C1(CC1)C(=O)NC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C26H24N6O4
